US06541638B2
Analogously, (2S,4R)-4-(2-[[4-(4-Methoxy-benzylsulfanyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetylamino)-benzoic acid ethyl ester was treated with 3-Phenyl-propane-1-sulfonyl chloride folowed by deprotection according to 8.1. to give (2S,4R)-4-[2-[[4-Mercapto-1-(3-phenyl-propane-1-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetylamino]-benzoic acid ethyl ester as colorless foam MS: 548 (MH+).

reactant | (2S,4R)-4-(2-[[4-(4-Methoxy-benzylsulfanyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(CN(C)C(=O)[C@H]1NC[C@@H](C1)SCC1=CC=C(C=C1)OC)=O)=O | C25H31N3O5S
reactant | 3-Phenyl-propane-1-sulfonyl chloride | C1(=CC=CC=C1)CCCS(=O)(=O)Cl | C9H11ClO2S
product | (2S,4R)-4-[2-[[4-Mercapto-1-(3-phenyl-propane-1-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(CN(C)C(=O)[C@H]1N(C[C@@H](C1)S)S(=O)(=O)CCCC1=CC=CC=C1)=O)=O | C26H33N3O6S2
